US07332501B2
1′-({6-Chloro-1-[2-(dimethylamino)ethyl]-1H-indol-3-yl}carbonyl)-5-fluoro-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one
Following the general procedure V as described hereinabove, the alkylation of 1′-[(6-chloro-1H-indol-3-yl)carbonyl]-5-fluoro-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one (the preparation of which have been described in example 19) with commercially available (2-chloro-ethyl)-dimethyl-amine as electrophile, the title compound was obtained as a white solid.

reactant | 1′-[(6-chloro-1H-indol-3-yl)carbonyl]-5-fluoro-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one | ClC1=CC=C2C(=CNC2=C1)C(=O)N1CCC2(CC1)OC(C1=C2C=CC(=C1)F)=O | C21H16ClFN2O3
reactant | (2-chloro-ethyl)-dimethyl-amine | ClCCN(C)C | C4H10ClN
product | 1′-({6-Chloro-1-[2-(dimethylamino)ethyl]-1H-indol-3-yl}carbonyl)-5-fluoro-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one | ClC1=CC=C2C(=CN(C2=C1)CCN(C)C)C(=O)N1CCC2(CC1)OC(C1=C2C=CC(=C1)F)=O | C25H25ClFN3O3
